US04816452
c. Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(tetrahydro-4H-pyran-4-yloxyimino)acetate
Ethyl 4-bromo-(Z)-2-(tetrahydro-4H-pyran-4-yloxyimino)-3-oxobutyrate (0.52 g) was treated with thiourea as described in Example 4d. Crystallisation from diisopropyl ether gave the title compound as a pale yellow solid (0.34 g, 70%), m.p. 110.0°-110.5° C. [Found: C: 48.37, H: 5.99, N: 13.59. C12H17N3O4S requires C: 48.15, H: 5.72, N: 14.04%]. νmax (KBr) 3138, 1733, 1616, 1538 cm-1. δH (CDCl3) 1.39 (3H, t), 1.76 (2H, m), 2.01 (2H, m), 3.56 (2H, m), 3.88 (2H, m), 4.42 (2H, q), 4.53 (1H, m), 5.29 (2H, br s, exch. D2O), 6.73 (1H, s).

reactant | Ethyl 4-bromo-(Z)-2-(tetrahydro-4H-pyran-4-yloxyimino)-3-oxobutyrate | 0.52 g | BrCC(/C(/C(=O)OCC)=N/OC1CCOCC1)=O | C11H16BrNO5
reactant | thiourea | NC(=S)N | CH4N2S
product | Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(tetrahydro-4H-pyran-4-yloxyimino)acetate | 0.34 g, 70% | NC=1SC=C(N1)/C(/C(=O)OCC)=N/OC1CCOCC1 | C12H17N3O4S
